US06852867B2
Synthesis of 4,6-di-tert-butyl-5-hydroxy-2,2-dipentyl-2,3-dihydrobenzofuran
To 22 mL of heptane, 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran and 1.68 g (15.0 mmol) of potassium tert-butoxide were added and the interior of the reaction vessel was argon-purged by a process consisting of depressurizing the reaction vessel and blowing it with argon. The mixture was heated on an oil bath at 120° C., refluxed for 2 hours in an argon atmosphere and cooled down to room temperature, followed by adding 30 mL of 10% hydrochloric acid dropwise. Further, the mixture was vigorously agitated for 15 minutes and then left to stand still; the organic layer was subjected to HPLC analysis and the generation of 4,6-di-tert-butyl-5-hydroxy-2,2-dipentyl-2,3-dihydrobenzofuran was confirmed by retention time (99.36% in purity).

reactant | 5-acetoxy-4,6-di-tert-butyl-2,2-dipentyl-2,3-dihydrobenzofuran | C(C)(=O)OC=1C(=CC2=C(CC(O2)(CCCCC)CCCCC)C1C(C)(C)C)C(C)(C)C | C28H46O3
reactant | potassium tert-butoxide | 15.0 mmol, 1.68 g | CC(C)([O-])C.[K+]
solvent | heptane | 22 mL | CCCCCCC | C7H16
product | 4,6-di-tert-butyl-5-hydroxy-2,2-dipentyl-2,3-dihydrobenzofuran | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(CCCCC)CCCCC)C(C)(C)C)O | C26H44O2
